US06211242B1
A mixture of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-cyanophenyl)benzamide (350 mg) and trimethyltin azide (453 mg) in xylene (15 ml) heated at 120° C. for 2 days and cooled to ambient temperature. The solution was directly applied to silica gel column (the column was pre-packed with chloroform as a solvent). The column was eluted with 2% methanol in chloroform and the solvent was evaporated in vacuo. The residue was solidified with diethyl ether to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(tetrazol-5-yl)phenyl]benzamide (233 mg) as a white powder.

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-cyanophenyl)benzamide | 350 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)C#N)C)C=C1 | C29H23N3O2
reactant | trimethyltin azide | 453 mg | C[Sn](C)(C)N=[N+]=[N-]
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(tetrazol-5-yl)phenyl]benzamide | 233 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)C2=NN=NN2)C)C=C1 | C29H24N6O2
